US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(2-methoxypropylimino)-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 2.19 g of 1-methyl-3-(2-methoxypropyl)-thiourea were reacted as prescribed in Example 23 and the crystalline end product was filtered off. Colorless solid crystals: melting point: 167° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-methyl-3-(2-methoxypropyl)-thiourea | 2.19 g | CNC(=S)NCC(C)OC | C6H14N2OS
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(2-methoxypropylimino)-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC(C)OC)C)O)S(N)(=O)=O | InChI=1S/C14H20ClN3O4S2.BrH/c1-9(22-3)7-17-13-18(2)14(19,8-23-13)10-4-5-11(15)12(6-10)24(16,20)21;/h4-6,9,19H,7-8H2,1-3H3,(H2,16,20,21);1H
